US04147799
4-(isopropylaminoacetyl)catechol hydrochloride (34 g.) is dissolved in 60 ml. of water and the aqueous solution is made alkaline with an aqueous saturated sodium hydrogen carbonate solution. The resulting alkaline solution is extracted with chloroform. Upon removal of the chloroform by distillation, crude 4-(isopropylaminoacetyl)catechol is obtained. The crude product is purified by recrystallization from benzene-petroleum ether. 20.9 g. of 4-(isopropylaminoacetyl)catechol and 10.2 g. of methylene chloride are dissolved in 20 ml. of methanol and the resulting solution is placed in a glass pressure reactor together with 3 g. of Tobin bronze shavings. An additional 40 ml. of methanol are added to the solution and the reactor is cooled with ice. An ice cold aqueous KOH solution (consisting of 11 g. of KOH and 15 ml. of water) is added thereto dropwise with stirring and, after the addition is complete, the reactor is sealed. The reaction is carried out with stirring at 100°-110° C. for 18 hours. After the reaction is complete, the methanol is distilled of under reduced pressure. The residual aqueous alkaline solution is mixed with 100 ml. of water and then extracted with ether. The ether extract is washed with 1N KOH and water and then dried. Upon distillation of the ether, crude α-isopropylamino-(3,4-methylenedioxy)acetophenone is obtained. Upon recrystallization of the crude product from benzene-petroluem ether, 8.2 g. of crystalline α-isopropylamino-(3,4-methylenedioxy)acetophenone are obtained.

reactant | 4-(isopropylaminoacetyl)catechol hydrochloride | 34 g | Cl.C(C)(C)NCC(=O)C=1C=C(C(O)=CC1)O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 4-(isopropylaminoacetyl)catechol | C(C)(C)NCC(=O)C=1C=C(C(O)=CC1)O | C11H15NO3
